US07838524B2
1-(2-{3-[Bis-(2-hydroxy-ethyl)-amino]-phenyl}-5-tert-butyl-2H-pyrazol-3-yl)-3-[4-(pyridin-4-yloxy)-phenyl]-urea
To a solution of 1-[2-(3-amino-phenyl)-5-tert-butyl-2H-pyrazol-3-yl]-3-[4-(pyridin-4-yloxy)-phenyl]-urea (124 mg, 0.28 mmol), (tert-butyldimethylsilyloxy)acetaldehyde (135 mg, 0.70 mmol, 2.5 eq), and sodium triacetoxyborohydride (178 mg, 0.84 mmol, 3 eq) in anhydrous THF (2 mL) was added acetic acid (20 mg, 0.34 mmol, 1.2 eq). The reaction was stirred under N2 at room temperature for 2 h. The reaction mixture was quenched with saturated aq NaHCO3 and extracted with EtOAc. The combined organic phases were washed with brine, dried over Na2SO4 and concentrated at reduced pressure. The residue was purified by MPLC (eluting with 45:55 to 65:35 EtOAc/hexanes) to give 153 mg (72%) of 1-[2-(3-{bis-[2-(tert-butyl-dimethyl-silanyloxy)-ethyl]-amino}-phenyl)-5-tert-butyl-2H-pyrazol-3-yl]-3-[4-(pyridin-4-yloxy)-phenyl]-urea. 1H-NMR (DMSO-d6) δ 9.17 (s, 1H), 8.39 (d, J=6.3 Hz, 2H), 8.31 (s, 1H), 7.47 (d, J=9.0 Hz, 2H), 7.24 (t, J=7.9 Hz, 1H), 7.07 (d, J=9 Hz, 2H), 6.84 (d, J=6.1 Hz, 2H), 6.72-6.66 (m, 3H), 6.33 (s, 1H), 3.72 (t, J=5.8 Hz, 4H), 3.49 (t, J=5.9 Hz, 4H), 1.26 (s, 9H), 0.82 (s, 18H), −0.01 (s, 12H); MS LC-MS [M+H]+=760.3, RT=4.10 min. Step 2: To a solution of 1-[2-(3-{bis-[2-(tert-butyl-dimethyl-silanyloxy)-ethyl]-amino}-phenyl)-5-tert-butyl-2H-pyrazol-3-yl]-3-[4-(pyridin-4-yloxy)-phenyl]-urea (153 mg, 0.20 mmol) in methanol (2 mL) was added a solution of 10% TFA in H2O (2 mL). The reaction was stirred at room temperature for 4 h. The mixture was then diluted with DCM, basified by addition of saturated NaHCO3 and extracted with DCM. The combined organic phases were washed with brine, dried over MgSO4, and concentrated at reduced pressure. The residue was purified by MPLC (eluting with 3% to 6% MeOH in DCM) to give 35 mg (36%) of the desired product. 1H-NMR (DMSO-d6) δ 9.17 (s, 1H), 8.40 (dd, J=1.5 & 4.7 Hz, 2H), 8.32 (s, 1H), 7.48 (d, J=8.8 Hz, 2H), 7.26-7.22 (m, 1H), 7.07 (d, J=9.1 Hz, 2H), 6.85 (dd, J=1.5 & 4.7 Hz, 2H), 6.71-6.69 (m, 2H), 6.63 (d, J=7.9 Hz, 1H), 6.34 (s, 1H), 4.76 (t, J=5.4 Hz, 2H), 3.54 (q, J=5.7 Hz, 4H), 3.43 (t, J=5.7 Hz, 4H), 1.26 (s, 9H); MS LC-MS [M+H]+=531.2, RT=2.27 min.

reactant | 1-[2-(3-{bis-[2-(tert-butyl-dimethyl-silanyloxy)-ethyl]-amino}-phenyl)-5-tert-butyl-2H-pyrazol-3-yl]-3-[4-(pyridin-4-yloxy)-phenyl]-urea | 0.20 mmol, 153 mg | C(C)(C)(C)[Si](OCCN(C=1C=C(C=CC1)N1N=C(C=C1NC(=O)NC1=CC=C(C=C1)OC1=CC=NC=C1)C(C)(C)C)CCO[Si](C(C)(C)C)(C)C)(C)C | C41H62N6O4Si2
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | methanol | 2 mL | CO | CH4O
solvent | H2O | 2 mL | O | H2O
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 1-(2-{3-[Bis-(2-hydroxy-ethyl)-amino]-phenyl}-5-tert-butyl-2H-pyrazol-3-yl)-3-[4-(pyridin-4-yloxy)-phenyl]-urea | 35 mg, 36% | OCCN(C=1C=C(C=CC1)N1N=C(C=C1NC(=O)NC1=CC=C(C=C1)OC1=CC=NC=C1)C(C)(C)C)CCO | C29H34N6O4
